US07384963B2
N-(3-Methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid and 3-methoxybenzylamine using method N. NMR; δH [2H6]—DMSO 9.12,(1H, t), 8.00,(2H, d), 7.90,(1H, dd), 7.76,(1H, d), 7.56-7.51,(3H, m), 7.24,(1H, t), 6.90,(2H, m), 6.83,(1H, dd), 4.48,(2H, d), 3.73,(3H, s), 2.56,(3H, s), 2.31,(3H, s). LCMS; retention time 3.34 min, MH+ 414.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)O | C17H14N2O3
reactant | 3-methoxybenzylamine | COC=1C=C(CN)C=CC1 | C8H11NO
product | N-(3-Methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | COC=1C=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=CC1 | C25H23N3O3
